US09403805B2
To a stirred solution of (2S,4R)-4-tert-butoxy-2-(5-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester (2 g, 5.59 mmol) in dichloromethane (15 mL) was added trifluoroacetic acid (1.57 mL) in dichloromethane (1:5) at 0° C. and the mixture was then stirred at room temp. for 16 h. The reaction mixture was neutralized with saturated sodium bicarbonate solution and extracted with dichloromethane. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude was then purified by column chromatography to give (2S,4R)-4-hydroxy-2-(5-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester (1.1 g, 65.1% yield) as an off white solid. MS calcd. for C16H19N2O4 [(M+H)+] 303.0, obsd. 303.4.

reactant | (2S,4R)-4-tert-butoxy-2-(5-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester | 5.59 mmol, 2 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C=1OC(=CN1)C | C20H26N2O4
reactant | trifluoroacetic acid | 1.57 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (2S,4R)-4-hydroxy-2-(5-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester | 1.1 g, 65.1% yield | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O)C=1OC(=CN1)C | C16H18N2O4
